US03937710
An alternative procedure for preparing 2,8-dibenzylcyclooctanones involves the corresponding 2,8-dibenzylidenecyclooctanones as the intermediates. Thus, a mixture comprising 12.5 grams of cyclooctanone, 27 grams of benzaldehyde, 15 grams of potassium hydroxide and 300 milliliters of methanol is stirred at reflux temperatures for 4 hours. To the hot, stirred mixture are slowly added 400 milliliters of t-butyl alcohol with simultaneous removal of the methanol by distillation. The mixture is then cooled, water is added and the product is extracted with ether. The crude product obtained from the ether extract is chromatographed on activated alumina to give 2,8-dibenzylidenecyclooctanone. This intermediate is hydrogenated at 60 p.s.i.g. in ethanol using 5 percent palladium on carbon. Fractional crystallization of the hydrogenation product from methanol affords the isomeric 2,8-dibenzylcyclooctanones, m.p. 75°-77° C. and 66°-68° C.

reactant | cyclooctanone | 12.5 grams | C1(CCCCCCC1)=O | C8H14O
reactant | benzaldehyde | 27 grams | C(C1=CC=CC=C1)=O | C7H6O
reactant | potassium hydroxide | 15 grams | [OH-].[K+]
reactant | methanol | 300 milliliters | CO | CH4O
solvent | t-butyl alcohol | 400 milliliters | C(C)(C)(C)O | C4H10O
product | 2,8-dibenzylidenecyclooctanone | C(C1=CC=CC=C1)=C1C(C(CCCCC1)=CC1=CC=CC=C1)=O | C22H22O
